US09303007B2
Di-tert-butyl dicarbonate (38.5 g, 177 mmol) was added in portions as a solid over 10 min to a solution of (S)-5-((tert-butyldiphenylsilyloxy)methyl)pyrrolidin-2-one (31.2 g, 88.3 mmol), Et3N (8.93 g, 88 mmol) and DMAP (1.08 g, 8.83 mmol) in CH2Cl2 (200 mL) and the reaction mixture was stirred for 18 h at 24° C. Most of the volatile material was removed in vacuo and the crude material was purified by silica gel chromatography (20% EtOAc/hexanes to 50% EtOAc/hexanes) to afford (S)-tert-butyl 2-((tert-butyldiphenylsilyloxy)methyl)-5-oxopyrrolidine-1-carboxylate (32.65 g, 82% yield) as a white solid. LC-MS (M−Boc+H)+=354.58. 1H NMR (400 MHz, DMSO-d6) δ ppm 7.61-7.59 (m, 2H), 7.56-7.54 (m, 2H), 7.50-7.38 (m, 6H), 4.18 (m, 1H), 3.90 (dd, J=10.4, 3.6, 1H), 3.68 (dd, J=10.4, 2.1, 1H), 2.68-2.58 (m, 1H), 2.40-2.33 (m, 1H), 2.22-2.12 (m, 1H), 2.01-1.96 (m, 1H), 1.35 (s, 9H), 0.97 (s, 9H).

reactant | Di-tert-butyl dicarbonate | 177 mmol, 38.5 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | (S)-5-((tert-butyldiphenylsilyloxy)methyl)pyrrolidin-2-one | 88.3 mmol, 31.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@@H]1CCC(N1)=O | C21H27NO2Si
reactant | Et3N | 88 mmol, 8.93 g | CCN(CC)CC | C6H15N
catalyst | DMAP | 8.83 mmol, 1.08 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 200 mL | C(Cl)Cl | CH2Cl2
product | (S)-tert-butyl 2-((tert-butyldiphenylsilyloxy)methyl)-5-oxopyrrolidine-1-carboxylate | 32.65 g, 82% yield | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC[C@H]1N(C(CC1)=O)C(=O)OC(C)(C)C | C26H35NO4Si
